US05436247
To a suspension of 4-(1-imidazolyl)butyric acid (0.5 g) in tetrahydrofuran (35 ml), 1,1'-carbonyldiimidazole (0.578 g) was added, followed by stirring at room temperature for 6 hours. After magnesium salt of malonic acid monoethyl ester [Mg(OCOCH2COOC2H5)2 ] (1.02 g) was added, the mixture was stirred at room temperature for 18 more hours. After the reaction mixture was concentrated under reduced pressure, the residue was dissolved in dichloromethane. The dichloromethane layer was washed with water and dried (MgSO4), after which the solvent was distilled off. The residual oily substance was subjected to silica gel column chromatography and eluted with chloroform-methanol (30:1, v/v) to yield 6-(1-imidazolyl)-3-oxohexanoic acid ethyl ester (0.32 g, 44%) as an oily substance.

reactant | 4-(1-imidazolyl)butyric acid | 0.5 g | N1(C=NC=C1)CCCC(=O)O | C7H10N2O2
reactant | 1,1'-carbonyldiimidazole | 0.578 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | malonic acid monoethyl ester | 1.02 g | C(C)OC(CC(=O)O)=O | C5H8O4
solvent | tetrahydrofuran | 35 ml | O1CCCC1 | C4H8O
product | 6-(1-imidazolyl)-3-oxohexanoic acid ethyl ester | 0.32 g, 44% | C(C)OC(CC(CCCN1C=NC=C1)=O)=O | C11H16N2O3
